US06630496B1
Step 2 Under anhydrous conditions benzothiazole was dissolved in THF (0.35 M). At −78° C. added BuLi (1.1 eq). After 1 h at −78° C., added the amide from step 1 in THF, over 15 min. The reaction was allowed to warm to 25° C. After stirring at 25° C. for 1 day, workup with ethyl acetate and water and chromatography afforded pure tolyl ketone product (52%).

reactant | benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | BuLi | 1.1 eq | [Li]CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | THF | 0.35 M | C1CCOC1 | C4H8O
product | tolyl ketone | 52% | C=1(C(=CC=CC1)C(=O)C1=C(C=CC=C1)C)C | C15H14O
